### PR TITLE
[Merged by Bors] - feat: `n • v` and `v` are on the same ray

### PR DESCRIPTION
**Pull request by YaelDillies**
From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Ray.lean [hunk 1]
```diff
@@ -54,6 +54,12 @@ theorem norm_smul_eq (h : SameRay ℝ x y) : ‖x‖ • y = ‖y‖ • x := by
 
 end SameRay
 
+lemma norm_nsmul [NormedSpace ℝ E] (n : ℕ) (x : E) : ‖n • x‖ = n • ‖x‖ := by
+  induction' n with n ih
+  · simp
+  · rw [succ_nsmul, succ_nsmul, SameRay.norm_add, ih]
+    exact sameRay_nsmul_right _ _
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Ray.lean:61]: This has a more elementary proof that belongs in another file:

```lean
lemma norm_nsmul [NormedAddCommGroup E] [NormedSpace ℝ E] (n : ℕ) (x : E) : ‖n • x‖ = n • ‖x‖ := by
  rw [nsmul_eq_smul_cast ℝ, norm_smul, IsROrC.norm_natCast, nsmul_eq_mul]
```
or even
```lean
lemma norm_nsmul [IsROrC 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E] (n : ℕ) (x : E) : ‖n • x‖ = n • ‖x‖ := by
  rw [nsmul_eq_smul_cast 𝕜, norm_smul, IsROrC.norm_natCast, nsmul_eq_mul]
```
next to `IsROrC.norm_natCast`.

Comment (YaelDillies) [reply Mathlib/Analysis/NormedSpace/Ray.lean:61]: Nice!

File: Mathlib/Data/IsROrC/Basic.lean [hunk 2]
```diff
@@ -712,6 +712,9 @@ theorem norm_natCast (n : ℕ) : ‖(n : K)‖ = n := by
 theorem norm_ofNat (n : ℕ) [n.AtLeastTwo] : ‖(no_index (OfNat.ofNat n) : K)‖ = OfNat.ofNat n :=
   norm_natCast n
 
+lemma norm_nsmul [NormedAddCommGroup E] [NormedSpace K E] (n : ℕ) (x : E) : ‖n • x‖ = n • ‖x‖ := by
```
Comment (urkud) [inline Mathlib/Data/IsROrC/Basic.lean:715]: Please make `K` explicit in this formula. It doesn't appear on either side of the formula.

File: Mathlib/LinearAlgebra/Ray.lean [hunk 3]
```diff
@@ -158,6 +158,26 @@ theorem pos_smul_left {r : R} (h : SameRay R x y) (hr : 0 < r) : SameRay R (r 
   h.nonneg_smul_left hr.le
 #align same_ray.pos_smul_left SameRay.pos_smul_left
 
+--TODO: Can we unify with `sameRay_nonneg_smul_right`?
```
Comment (urkud) [inline Mathlib/LinearAlgebra/Ray.lean:161]: Assume `IsScalarTower S R M` and something like `OrderedSMul S R`?

File: Mathlib/LinearAlgebra/Ray.lean [hunk 4]
```diff
@@ -158,6 +161,26 @@ theorem pos_smul_left {r : R} (h : SameRay R x y) (hr : 0 < r) : SameRay R (r 
...
+/-- A vector is in the same ray as a nonnegative integer multiple of itself. -/
+lemma _root_.sameRay_nsmul_right (v : M) (n : ℕ) : SameRay R v (n • v) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Ray.lean:166]:
```suggestion
lemma _root_.SameRay.nsmul_right (v : M) (n : ℕ) : SameRay R v (n • v) := by
```
for `(.nsmul_right _ _)` notation.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Ray.lean:166]: Oh nevermind, I see this conflicts with below.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Ray.lean:166]: I'd lean towards removing these, and forcing the user to write `refl.nsmul_right` or whatever.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Ray.lean:166]: What about the similar ones for `smul` by `R` that already exist?

PS: Those conflicts, I think, are a pretty fundamental flaw of this new `(.bar _)` notation wrt our naming convention.

File: Mathlib/Algebra/GroupPower/CovariantClass.lean [hunk 5]
```diff
@@ -167,6 +167,10 @@ theorem pow_left_strictMono (hn : n ≠ 0) : StrictMono (· ^ n : M → M) := st
 #align pow_strict_mono_right' pow_left_strictMono
 #align nsmul_strict_mono_left nsmul_right_strictMono
 
+@[to_additive (attr := mono) nsmul_lt_nsmul_right]
+lemma pow_lt_pow_left' (hn : n ≠ 0) {a b : M} (hab : a < b) : a ^ n < b ^ n :=
```
Comment (urkud) [inline Mathlib/Algebra/GroupPower/CovariantClass.lean:171]: Should it be `gcongr` as well?

File: Mathlib/Algebra/Order/Module/Algebra.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+
+section OrderedSemiring
+variable (β)
+variable [OrderedSemiring β] [Algebra α β] [SMulPosMono α β] {a : α}
+
+lemma algebraMap_mono : Monotone (algebraMap α β) :=
+  fun a₁ a₂ ha ↦ by
+    simpa only [Algebra.algebraMap_eq_smul_one] using smul_le_smul_of_nonneg_right ha zero_le_one
+
+lemma algebraMap_nonneg (ha : 0 ≤ a) : 0 ≤ algebraMap α β a := by simpa using algebraMap_mono β ha
```
Comment (urkud) [inline Mathlib/Algebra/Order/Module/Algebra.lean:25]: Could you please add a `positivity` extension for `algebraMap` using this lemma and `algebraMap_pos` below?

File: Mathlib/Algebra/Order/Module/Algebra.lean [hunk 7]
```diff
@@ -0,0 +1,58 @@
...
+This file proves properties of algebras where both rings are ordered compatibly.
+-/
+
+variable {α β : Type*} [OrderedCommSemiring α]
+
+section OrderedSemiring
+variable (β)
+variable [OrderedSemiring β] [Algebra α β] [SMulPosMono α β] {a : α}
+
+lemma algebraMap_mono : Monotone (algebraMap α β) :=
```
Comment (urkud) [inline Mathlib/Algebra/Order/Module/Algebra.lean:21]: Please add a version with unfolded definition and make it `@[mono, gcongr]` (`mono` can accept `Monotone` lemmas while `gcongr` can't).

File: Mathlib/Algebra/Order/Module/Algebra.lean [hunk 8]
```diff
@@ -0,0 +1,58 @@
...
+@[simp] lemma algebraMap_le_algebraMap : algebraMap α β a₁ ≤ algebraMap α β a₂ ↔ a₁ ≤ a₂ := by
+  simp [Algebra.algebraMap_eq_smul_one]
+
+end SMulPosMono
+
+section SMulPosStrictMono
+variable [SMulPosStrictMono α β] {a a₁ a₂ : α}
+variable (β)
+
+lemma algebraMap_strictMono : StrictMono (algebraMap α β) :=
```
Comment (urkud) [inline Mathlib/Algebra/Order/Module/Algebra.lean:44]: Same as above about `mono` and `gcongr`.

File: Mathlib/Algebra/Order/Module/Algebra.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Module/Algebra.lean:25]: I'm not managing to pattern-match on `algebraMap` because of the `FunLike.coe`. Here's my attempt. I won't have more time to spend on making this work.
```
namespace Mathlib.Meta.Positivity
open Lean Meta Qq Function

/-- Extension for `algebraMap`. -/
@[positivity algebraMap _ _ _]
def evalAlgebraMap : PositivityExt where eval {u α} _zα _pα e := do
  let ~q(@FunLike.coe _ _ _ _ (@algebraMap $α $β $instα $instβ $instαβ) $a) := e | throwError "not algebraMap"
  -- let zα' : Q(Zero ℚ) := q(inferInstance)
  -- let pα' : Q(PartialOrder ℚ) := q(inferInstance)
  -- match ← core zα' pα' a with
  -- | .positive pa =>
  --   let _oα ← synthInstanceQ (q(LinearOrderedField $α) : Q(Type u))
  --   pure (.positive (q((Rat.cast_pos (K := $α)).mpr $pa) : Expr))
  -- | .nonnegative pa =>
  --   let _oα ← synthInstanceQ (q(LinearOrderedField $α) : Q(Type u))
  --   pure (.nonnegative (q((Rat.cast_nonneg (K := $α)).mpr $pa) : Expr))
  -- | .nonzero pa =>
  --   let _oα ← synthInstanceQ (q(DivisionRing $α) : Q(Type u))
  --   let _cα ← synthInstanceQ (q(CharZero $α) : Q(Prop))
  --   pure (.nonzero (q((Rat.cast_ne_zero (α := $α)).mpr $pa) : Expr))
  -- | .none => pure .none


example [OrderedSemiring β] [Algebra α β] [SMulPosMono α β] {a : α} (ha : 0 ≤ a) :
    0 ≤ algebraMap α β a := by positivity
```

Comment (urkud) [reply Mathlib/Algebra/Order/Module/Algebra.lean:34]: Can you add a `TODO` about it then?

**Comment by urkud** [comment]
Thanks! :tada:
bors merge

File: Mathlib/Algebra/Order/Module/Algebra.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/Module/Algebra.lean:34]: A regular match works fine:
```
@[positivity algebraMap _ _ _]
def evalAlgebraMap : PositivityExt where eval {u β'} _zβ _pβ e := do
  let ~q(@algebraMap $α _ $instα $instβ $instαβ $a) := e | throwError "not algebraMap"
  let zα : Q(Zero $α) := q(inferInstance)
  let (pα' : Q(PartialOrder $α)) ← synthInstanceQ _
  sorry
```
though I haven't tried to write the rest.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Module/Algebra.lean:34]: #9961
